US08114887B2
To a solution of 100 mg (0.28 mmol) 8-benzyl-1-(3-fluorophenyl)-1,8-diazaspiro[4.5]decane-2,4-dione in 0.71 mL dry toluene was added 70 mg (0.37 mmol)p-toluenesulfonic acid monohydrate and 61 μL (0.50 mmol) 2-ethylaniline. The reaction was heated to reflux for 18 h and then diluted with EtOAc, washed with 1N NaOH, dried over Na2SO4, filtered, and concentrated in vacuo. The crude material was purified on silica gel with 20-60% EtOAc/hexanes to afford title example 8-benzyl-4-[(2-ethylphenyl)amino]-1-(3-fluorophenyl)-1,8-diazaspiro[4.5]dec-3-en-2-one as a tan foam. 1H NMR (CD3OD, 400 MHz) δ 7.43 (q, J=7.38 Hz, 1H), 7.32 (m, 1H), 7.24 (m, 6H), 7.16 (m, 3H), 7.08 (m, 2H), 4.55 (s, 1H), 3.41 (s, 2H), 2.80 (m, 2H), 2.64 (q, J=7.51 Hz, 2H), 2.38 (m, 2H), 2.19 (m, 2H), 2.10 (dt, J=11.5 and 3.85 Hz, 2H), 1.18 (t, J=7.51 Hz, 3H); LC/MS [M+H]=456.1.

reactant | 8-benzyl-1-(3-fluorophenyl)-1,8-diazaspiro[4.5]decane-2,4-dione | 0.28 mmol, 100 mg | C(C1=CC=CC=C1)N1CCC2(C(CC(N2C2=CC(=CC=C2)F)=O)=O)CC1 | C21H21FN2O2
reactant | p-toluenesulfonic acid monohydrate | 0.37 mmol, 70 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | 2-ethylaniline | 0.50 mmol, 61 μL | C(C)C1=C(N)C=CC=C1 | C8H11N
solvent | toluene | 0.71 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 8-benzyl-4-[(2-ethylphenyl)amino]-1-(3-fluorophenyl)-1,8-diazaspiro[4.5]dec-3-en-2-one | C(C1=CC=CC=C1)N1CCC2(C(=CC(N2C2=CC(=CC=C2)F)=O)NC2=C(C=CC=C2)CC)CC1 | C29H30FN3O
